US08022065B2
3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(4-(3-(bromo)propoxy)benzofur-7-yl)-2,5-dioxopyrrole
Dissolve 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]-quinolin-1-yl)-4-(4-(3-(hydroxy)propoxy)benzofur-7-yl)-2,5-dioxopyrrole (0.1 g, 0.232 mmol) in 10 mL dichloromethane. Add carbon tetrabromide (0.077 g) and triphenylphosphine (0.061 g). Stir for 10 minutes and add another equivalent of both reagents. Stir 10 minutes then dilute with dichloromethane and wash with water followed by saturated aqueous sodium chloride. Dry over magnesium sulfate then filter and concentrate under reduced pressure. Subject residue to silica gel chromatography, eluting with 2% methanol in dichloromethane to provide the desired compound (0.116 g)

reactant | 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]-quinolin-1-yl)-4-(4-(3-(hydroxy)propoxy)benzofur-7-yl)-2,5-dioxopyrrole | 0.232 mmol, 0.1 g | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NC(C2C2=CC=C(C=3C=COC32)OCCCO)=O)=O | C26H22N2O5
reactant | carbon tetrabromide | 0.077 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.061 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(4-(3-(bromo)propoxy)benzofur-7-yl)-2,5-dioxopyrrole | 0.116 g | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NC(C2C2=CC=C(C=3C=COC32)OCCCBr)=O)=O | C26H21BrN2O4
